US03952003
6-Chloro-5-(N-acetyl-N-isopropylamino)-1-methyl-1H-indazole-4,7-dione (3 grams prepared by a similar method to that described in Example III) and isopropylamine (3 grams) in ethanol (25 milliliters) were heated together under reflux for 10 minutes. On cooling the reaction mixture a yellow-orange solid crystallized out, which was filtered off and dried to yield 6-ethoxy-5-(N-acetyl-N-isopropylamino)-1-methyl-1H-indazole-4,7-dione having a melting point of 154°-155° C.

reactant | 6-Chloro-5-(N-acetyl-N-isopropylamino)-1-methyl-1H-indazole-4,7-dione | ClC1=C(C(C=2C=NN(C2C1=O)C)=O)N(C(C)C)C(C)=O | C13H14ClN3O3
reactant | isopropylamine | 3 grams | C(C)(C)N | C3H9N
reactant | ethanol | 25 milliliters | C(C)O | C2H6O
product | 6-ethoxy-5-(N-acetyl-N-isopropylamino)-1-methyl-1H-indazole-4,7-dione | C(C)OC1=C(C(C=2C=NN(C2C1=O)C)=O)N(C(C)C)C(C)=O | C15H19N3O4
